US08609688B2
Synthesis of 2-({3-[2-(2-aminopyridin-3-yl)-3-(4-{1-[(tert-butoxycarbonyl)amino]cyclobutyl}phenyl)-3H-imidazo[4,5-b]pyridin-5-yl]phenyl}amino)-1,1-dimethyl-2-oxoethyl acetate
To a suspension of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50 mg) and 1,1-dimethyl-2-oxo-2-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amino}ethyl acetate (71 mg) and potassium phosphate (65 mg) and PdCl2(dppf)CH2Cl2 (8 mg) in dioxane (2 mL) and H2O (0.2 mL) was degassed for 5 minutes and then heated to 80° C. for 18 h. The reaction mixture was concentrated under reduced pressure. Purification by column chromatography (2 times: 0-10% methanol in chloroform then 0-10% methanol in ethyl acetate) gave the product (44 mg, 64%).

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 50 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | 1,1-dimethyl-2-oxo-2-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]amino}ethyl acetate | 71 mg | C(C)(=O)OC(C(NC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O)(C)C | C18H26BNO5
reactant | potassium phosphate | 65 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.2 mL | O | H2O
product | 2-({3-[2-(2-aminopyridin-3-yl)-3-(4-{1-[(tert-butoxycarbonyl)amino]cyclobutyl}phenyl)-3H-imidazo[4,5-b]pyridin-5-yl]phenyl}amino)-1,1-dimethyl-2-oxoethyl acetate | 44 mg, 64% | C(C)(=O)OC(C(=O)NC1=CC(=CC=C1)C1=CC=C2C(=N1)N(C(=N2)C=2C(=NC=CC2)N)C2=CC=C(C=C2)C2(CCC2)NC(=O)OC(C)(C)C)(C)C | C38H41N7O5
